US07585875B2
To MeOH (2 mL) cooled in an ice bath under argon was added AcCl (0.047 mL) dropwise. This solution was stirred for 10 minutes before adding dropwise to 3-(benzylamino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one (0.200 g) in dry Et2O (5 mL), which was also cooled in an ice bath. The solvent was evaporated and the residue was treated with hexane (1 ml). the solvent was evaporated and a yellow solid was obtained. This solid was stirred in 10 mL of a solution containing MeOH (1%) and Et2O (99%) for 8 hours. The solid was filtered, washed with Et2O and dried under reduced pressure to afford 172 mg of 3-(benzylamino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one hydrochloride as a pale yellow solid. mp=171-175° C. (Et2O, pentane), IR (KBr) v=3428, 3034, 2965, 2784, 25589, 2425, 1642, 1538, 1507, 1481, 1440, 1360, 1264, 1210, 1188, 972; 1H NMR (600 MHz, DMSO-d6) δ=9.60 (bs, 1H), 9.23 (bs, 1H), 8.86 (d, J=6.8 Hz, 1H), 8.09 (d, J=9.1 Hz, 1H), 7.56-7.68 (m, 3H), 7.37-7.47 (m, 3H), 7.15 (tr, J=6.8 Hz, 1H), 4.15-4.23 (m, 2H), 3.87-3.95 (m, 1H), 3.74 (sept, J=6.8 Hz, 1H), 3.34-3.42 (m, 1H), 2.94-3.01 (m, 1H), 1.33 (d, J=6.8 Hz, 3H), 1.28 (d, J=6.8 Hz, 3H), 1.22 (d, J=7.6 Hz, 3H); 13C NMR (150 MHz, CDCl3) δ=194.8, 164.4, 140.9, 132.3, 130.7, 130.6, 129.6, 129.4, 129.0, 118.7, 114.7, 107.4, 48.2, 41.3, 27.6, 22.9, 22.3, 17.1; MS (FAB) m/z 337 (M+1, 25.5), 336 (M+, 100.0), 218 (16.7), 217 (99.6), 187 (28.1), 173 (17.8), 161 (13.1), 120 (31.9); HRMS (FAB) calcd for C21H26N3O: 336.2076; found: 336.2066. Compound 1066.

reactant | MeOH | 2 mL | CO | CH4O
reactant | AcCl | 0.047 mL | C(=O)(C)Cl | C2H3ClO
reactant | 3-(benzylamino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 0.200 g | C(C1=CC=CC=C1)NCC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C21H25N3O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 3-(benzylamino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one hydrochloride | 172 mg | Cl.C(C1=CC=CC=C1)NCC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | InChI=1S/C21H25N3O.ClH/c1-15(2)20-19(18-11-7-8-12-24(18)23-20)21(25)16(3)13-22-14-17-9-5-4-6-10-17;/h4-12,15-16,22H,13-14H2,1-3H3;1H
